US04775692
To a solution of diisopropylamine (4.36 g, 43.1 mmol) in 100 ml of anhydrous THF was added under argon atmosphere a solution of n-butyl lithium in hexane (1.61N, 26.8 ml, 43.1 mmol) at -20° C. The reaction mixture was stirred for one hour and cooled to -78° C. To the resulting mixture were added a solution of ethyl isobutyrate (5.00 g, 43.1 mmol) in anhydrous THF (15 ml) and HMPA (7.73 g, 43.1 mmol), and the mixture was stirred for 1.5 hrs. at -78° C. A solution of chloromethyl ethyl ether (4.89 g, 51.7 mmol) in 20 ml of anhydrous THF was added, stirred for 2 hrs. at -78° C., and then stirred for 2 hrs. at room temperature. To the resulting mixture were added an aqueous saturated solution of ammonium chloride (150 ml) and water (50 ml), and the mixture was extracted with ether (400 ml). The organic layer was washed with water (150 ml) and with brine, and dried over anhydrous magnesium sulfate. Ether was distilled out at normal pressure. Distillation of the resulting material (b.p. 80°-84° C./30 mmHg) gave ethyl 2,2-dimethyl-4-oxahexanoate (4.23 g, 24.3 mmol, 56.4%) as an oily material. The product was assigned the structure by the following data.

reactant | diisopropylamine | 43.1 mmol, 4.36 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 43.1 mmol, 1.61N, 26.8 ml | CCCCCC | C6H14
reactant | ethyl isobutyrate | 43.1 mmol, 5.00 g | C(C(C)C)(=O)OCC | C6H12O2
reactant | HMPA | 43.1 mmol, 7.73 g | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | chloromethyl ethyl ether | 51.7 mmol, 4.89 g | C(C)OCCl | C3H7ClO
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | ethyl 2,2-dimethyl-4-oxahexanoate | 24.3 mmol, 4.23 g, 56.4% | CC(C(=O)OCC)(COCC)C | C9H18O3
